US06627630B1
6-Chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylic Acid
10.0 g of 6-chloro-2-methyl[1,2,4]triazolo[1,5-b]pyridazine was added to 55 ml of concentrated sulfuric acid under ice cooling conditions; 19.4 g of sodium dichromate dihydrate was added little by little at constant temperature, followed by stirring at room temperature for 4 days. Under ice cooling conditions, about 200 ml of ice water was added; the crystal precipitated was collected by filtration, washed with water and ethyl ether and dried to yield 9.74 g of the title compound.

reactant | 6-chloro-2-methyl[1,2,4]triazolo[1,5-b]pyridazine | 10.0 g | ClC=1C=CC=2N(N1)N=C(N2)C | C6H5ClN4
reactant | sulfuric acid | 55 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium dichromate dihydrate | 19.4 g | O.O.[Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
product | 6-Chloro[1,2,4]triazolo[1,5-b]pyridazine-2-carboxylic Acid | 9.74 g | ClC=1C=CC=2N(N1)N=C(N2)C(=O)O | C6H3ClN4O2
